US05958914
To acetic anhydride (20.6 ml) was added formic acid (16.6 ml) at 15° C. The mixture was stirred at room temperature for 30 minutes. To the mixture was 2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetic acid (10 g) under ice-cooling, and the reaction mixture was stirred at room temperature for 20 hours. To the mixture was added isopropyl ether (37.2 ml) under ice-cooling, and the mixture was stirred at the same temperature for 1 hour. The resulting precipitate was collected by filtration to give 2-(2-formylaminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetic acid (9.39 g).

reactant | acetic anhydride | 20.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(2-aminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetic acid | 10 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)=O | C7H7N3O4S
reactant | isopropyl ether | 37.2 ml | C(C)(C)OC(C)C | C6H14O
solvent | formic acid | 16.6 ml | C(=O)O | CH2O2
product | 2-(2-formylaminothiazol-4-yl)-2-(Z)-(acetoxyimino)acetic acid | 9.39 g | C(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)=O | C8H7N3O5S
